US05089507
2-(pyrrolidin-1-yl)methyl-3,3-dimethyl piperidine
By reducing 2.6 g (0.013 moles) of 2-(pyrrolidin-1-yl) carbonyl-3,3-dimethyl piperidine with 0.52 g (0.013 moles) of LiAlH4 in 100 ml of dry THF, using an alkaline work-up, 2.0 g of the title compound were obtained. The compound was sufficiently pure for the following step.

reactant | 2-(pyrrolidin-1-yl) carbonyl-3,3-dimethyl piperidine | 0.013 moles, 2.6 g | N1(CCCC1)C(=O)C1NCCCC1(C)C | C12H22N2O
reactant | LiAlH4 | 0.013 moles, 0.52 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2-(pyrrolidin-1-yl)methyl-3,3-dimethyl piperidine | 2.0 g | N1(CCCC1)CC1NCCCC1(C)C | C12H24N2
